US07067540B2
Step 1: Preparation of 4-Bromomethyl-N-(2-hydroxy-2-methylpropyl) benzenesulfonamide
4-(Bromomethyl)benzenesulfonyl chloride (2.0 g, 7.3 mmol) was dissolved in tetrahydrofuran. 3-Amino-2-methyl-2-propanol (1.0 g, 8 mmol) and and N,N-diisopropylethylamine (1.5 mL, 8.8 mmol) were added, and the reaction was allowed to stir at ambient temperature for 30 minutes. The reaction was concentrated to an oil that was partitioned between water and ethyl acetate and extracted with ethyl acetate. The organic extracts were combined, washed with brine, dried over Na2SO4, and filtered. The resulting filtrate was concentrated to an oil that was a mixture of the title compound and 4-chloromethyl-N-(2-hydroxy-2-methylpropyl) benzenesulfonamide. The resulting oil was dried in vacuo (1.9 g, 81%).

reactant | 4-(Bromomethyl)benzenesulfonyl chloride | 7.3 mmol, 2.0 g | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
reactant | 3-Amino-2-methyl-2-propanol | 8 mmol, 1.0 g | NCC(C)(O)C | C4H11NO
reactant | N,N-diisopropylethylamine | 8.8 mmol, 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Bromomethyl-N-(2-hydroxy-2-methylpropyl) benzenesulfonamide | BrCC1=CC=C(C=C1)S(=O)(=O)NCC(C)(C)O | C11H16BrNO3S
